US07544697B2
1-Benzyl-5-methyl-1H-pyrazole-3-carbonitrile (3.38 g, 17.1 mmol) was treated with potassium acetate (2.35 g, 24.0 mmol) and bromine (3.01 g, 18.9 mmol) in glacial acetic acid (48 mL) according to the method described in Part F of Examples 1-4. After the 2 M aqueous sodium carbonate was added in the work-up, a white solid was isolated by filtration and washed with water to yield 4.49 g of 1-benzyl-4-bromo-5-methyl-1H-pyrazole-3-carbonitrile.

reactant | 1-Benzyl-5-methyl-1H-pyrazole-3-carbonitrile | 17.1 mmol, 3.38 g | C(C1=CC=CC=C1)N1N=C(C=C1C)C#N | C12H11N3
reactant | potassium acetate | 24.0 mmol, 2.35 g | C(C)(=O)[O-].[K+]
reactant | bromine | 18.9 mmol, 3.01 g | BrBr | Br2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 48 mL | C(C)(=O)O | C2H4O2
product | 1-benzyl-4-bromo-5-methyl-1H-pyrazole-3-carbonitrile | 4.49 g | C(C1=CC=CC=C1)N1N=C(C(=C1C)Br)C#N | C12H10BrN3
